US07452993B2
To a solution of 3-[3-(2-Methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzaldehyde (23 mg, 0.050 mmol) and Pyrrolidine (5 ul, 0.082 mmol) in 1.5 ml dichloethane was added 3 ul of AcOH. The mixture was stirred at room temperature for 30 mins, and then to the mixture was added sodium trioxyacetylborohydride (22 mg, 0.10 mmol) in one portion. The reaction was continued at room temperature for another 2 hrs the mixture was then concentrated to yield the SEM product which was treated with a solution of 5% perchlorate in acetic acid (2 mL) at room temperature for 1 hr. Solvents were evaporated, the residue was neutralized with sodium bicarbonate powder and then purified by flash silica gel chromatography using ethyl acetate then a mixture of EtOAc/DCM/MeOH/NH4OH (4/4/1/0.05) to afford 3-(2-Methoxy-phenyl)-5-(3-pyrrolidin-1-ylmethyl-phenyl)-1H-pyrazolo[3,4-b]pyridine (8.50 mg, 44% yield) as a white solid. 1H NMR (500 MHz, CD3OD) δ 1.89 (d, J=3 Hz, 4H), 2.76 (d, J=1.5 Hz, 4H), 3.89 (s, 2H), 3.9 (s, 2H), 7.11 (t, J=1 Hz, 1H), 7.22 (d, J=8 Hz, 1H), 7.42 (t, J=7 Hz, 1H), 7.47 (d, J=1.5 Hz, 1H), 7.48 (d, J=2 Hz, 1H), 7.51 (d, J=2.5 Hz, 1H), 7.65 (t, J=6.75 Hz, 1H), 7.72 (s, 1H), 8.39 (d, J=2.5 Hz, 1H), 8.83 (d, J=2 Hz, 1H). MS: m/z 385 [MH+].

reactant | 3-[3-(2-Methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzaldehyde | 0.050 mmol, 23 mg | COC1=C(C=CC=C1)C1=NN(C2=NC=C(C=C21)C=2C=C(C=O)C=CC2)COCC[Si](C)(C)C | C26H29N3O3Si
reactant | Pyrrolidine | 0.082 mmol, 5 ul | N1CCCC1 | C4H9N
reactant | perchlorate | Cl(=O)(=O)(=O)[O-]
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | AcOH | 3 ul | CC(=O)O | C2H4O2
product | 3-(2-Methoxy-phenyl)-5-(3-pyrrolidin-1-ylmethyl-phenyl)-1H-pyrazolo[3,4-b]pyridine | 8.50 mg, 44% yield | COC1=C(C=CC=C1)C1=NNC2=NC=C(C=C21)C2=CC(=CC=C2)CN2CCCC2 | C24H24N4O
